US08859535B2
(S)-1-(4-Chloro-phenyl)-2-{4-[1-hydroxy-1-(3-methoxy-phenyl)-ethyl]-phenyl}-7-isopropoxy-6-methoxy-1,4-dihydro-2H-isoquinolin-3-one
A dry 10 ml microwave vial was charged with K3PO4 (123 mg, 0.578 mmol), (S)-1-(4-chlorophenyl)-7-isopropoxy-6-methoxy-1,2-dihydroisoquinolin-3(4H)-one (100 mg, 0.289 mmol), 1-(4-iodophenyl)-1-(3-methoxyphenyl)ethanol (113 mg, 0.318 mmol), trans-1,2-diaminocyclohexane (6.95 μl, 0.058 mmol) and dioxane (3 ml). The reaction mixture was degassed with argon in a sonic bath during 5 minutes. Then copper(I)iodide (11.01 mg, 0.058 mmol) was added. The vial was sealed and heated for 8 hrs to 100° C. in a metal heating block. The reaction mixture was diluted with ethyl acetate and the organic phase was washed with aqueous NaHCO3 solution and brine. The organic phase was dried over Na2SO4, filtered and concentrated in vacuo to obtain a brown oil as crude material which was purified by preparative HPLC (reversed phase). Fractions containing the products were pooled and worked up (addition of NaHCO3, removal of acetonitrile followed by extraction with DCM). The residue was dissolved in 1,4-dioxane and freeze dried overnight to obtain the title compound as yellowish solid.

reactant | K3PO4 | 0.578 mmol, 123 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | (S)-1-(4-chlorophenyl)-7-isopropoxy-6-methoxy-1,2-dihydroisoquinolin-3(4H)-one | 0.289 mmol, 100 mg | ClC1=CC=C(C=C1)[C@@H]1NC(CC2=CC(=C(C=C12)OC(C)C)OC)=O | C19H20ClNO3
reactant | 1-(4-iodophenyl)-1-(3-methoxyphenyl)ethanol | 0.318 mmol, 113 mg | IC1=CC=C(C=C1)C(C)(O)C1=CC(=CC=C1)OC | C15H15IO2
reactant | trans-1,2-diaminocyclohexane | 0.058 mmol, 6.95 μl | N[C@H]1[C@@H](CCCC1)N | C6H14N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | copper(I)iodide | 0.058 mmol, 11.01 mg | [Cu]I
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | (S)-1-(4-Chloro-phenyl)-2-{4-[1-hydroxy-1-(3-methoxy-phenyl)-ethyl]-phenyl}-7-isopropoxy-6-methoxy-1,4-dihydro-2H-isoquinolin-3-one | ClC1=CC=C(C=C1)[C@@H]1N(C(CC2=CC(=C(C=C12)OC(C)C)OC)=O)C1=CC=C(C=C1)C(C)(C1=CC(=CC=C1)OC)O | C34H34ClNO5
